US07323475B2
[Carboxymethyl-(1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carbonyl)-amino]-acetic acid
Prepared from 1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid and (ethoxycarbonylmethyl-amino)-acetic acid ethyl ester analogously to Example D-49 MS-(+)-ion: 397.0 amu.

reactant | 1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid | ClC1=NC(=C(C2=CC(=CC=C12)OC(C)C)O)C(=O)O | C13H12ClNO4
reactant | (ethoxycarbonylmethyl-amino)-acetic acid ethyl ester | C(C)OC(CNCC(=O)OCC)=O | C8H15NO4
product | [Carboxymethyl-(1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carbonyl)-amino]-acetic acid | C(=O)(O)CN(C(=O)C=1N=C(C2=CC=C(C=C2C1O)OC(C)C)Cl)CC(=O)O | C17H17ClN2O7
